US09399630B2
As per the process described in the JMC Article, 3-(4-chlorobutyl)-1H-indole-5-carbonitrile is prepared by reacting 5-cyanoindole with 4-chlorobutyryl chloride in the presence of isobutyl-AlCl2 to produce 3-(4-chlorobutyryl)-1H-indole-5-carbonitrile, which is then subjected to selective desoxygenation of the keto function with sodium bis(2-methoxyethoxy)aluminum hydride (Vitride/Red-Al) to produce the 3-(4-chlorobutyl)-1H-indole-5-carbonitrile.

reactant | 3-(4-chlorobutyl)-1H-indole-5-carbonitrile | ClCCCCC1=CNC2=CC=C(C=C12)C#N | C13H13ClN2
reactant | 5-cyanoindole | C(#N)C=1C=C2C=CNC2=CC1 | C9H6N2
reactant | 4-chlorobutyryl chloride | ClCCCC(=O)Cl | C4H6Cl2O
product | 3-(4-chlorobutyryl)-1H-indole-5-carbonitrile | ClCCCC(=O)C1=CNC2=CC=C(C=C12)C#N | C13H11ClN2O
